US07838543B2
Step 1. 5-Chloro-pyrazine-2-carboxylic acid methyl ester
Reflux a mixture of 5-Hydroxy-pyrazine-2-carboxylic acid (6.568 g, 46.88 mmol), thionyl chloride (51 mL, 703.2 mmol), and DMF (0.50 mL) for 4 h. Cool the mixture to room temperature, concentrate in vacuo, and pump on high vacuum for 3 h. Dilute the mixture with MeOH (25 mL) and add pyridine (4.5 mL, 55.7 mmol). Stir the mixture overnight at room temperature. Adsorb the reaction mixture onto silica gel and subject the mixture to flash column chromatography (330 g column, 25%-60% ethyl acetate/n-hexane) to yield the desired product (7.380 g, 91%). mass spectrum (m/e): 173.0 (M+1).

reactant | 5-Hydroxy-pyrazine-2-carboxylic acid | 46.88 mmol, 6.568 g | OC=1N=CC(=NC1)C(=O)O | C5H4N2O3
reactant | thionyl chloride | 703.2 mmol, 51 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.50 mL | CN(C)C=O | C3H7NO
reactant | pyridine | 55.7 mmol, 4.5 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | 5-Chloro-pyrazine-2-carboxylic acid methyl ester | 7.380 g, 91% | COC(=O)C1=NC=C(N=C1)Cl | C6H5ClN2O2
